US05326905
2. 4-benzoylbenzylphosphonic acid
A mixture of 4.8 g of 4-benzoylbenzyl bromide and triethylphosphite was heated at 125° C. for 0.5 hours and cooled to room temperature. The resulting oil was purified by flash chromatography (70% ethyl acetate/hexanes) to afford 3.2 g of diethyl 4-benzoylbenzylphosphonic acid, as an oil. A mixture of 3.2 g (9.6 mmol) of diethyl 4-benzoylbenzylphosphonic acid and 40 ml of concentrated hydrochloric acid was refluxed for 7 hours and cooled to room temperature. The two phase mixture was partitioned between 125 ml of water and 400 ml of EtOAc, the EtOAc layer was dried over Na2SO4, filtered and evaporated to give 0.7 g of product; m.p. 172°-175° C.

reactant | diethyl 4-benzoylbenzylphosphonic acid | 9.6 mmol, 3.2 g | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C18H21O4P
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 4-benzoylbenzylphosphonic acid | 0.7 g | C(C1=CC=CC=C1)(=O)C1=CC=C(CP(O)(O)=O)C=C1 | C14H13O4P
